US06831081B2
N-Boc-pyrrolidine (5.0 g) is dissolved in diethyl ether (60 mL) and the solution is cooled to −78° C. N,N,N′,N′-Tetramethylenediamine (TMEDA) (4.4 mL) is added to the mixture followed by sec-butyl lithium (27.0 mL, 1.3 M in cyclohexane) maintaining the temperature below −60° C. After 2 h, 2-pyridine carboxaldehyde (3.3 mL) is added and the mixture is stirred at −70° C. for an additional 30 min. The reaction mixture is allowed to warm to room temperature and is then quenched with water (25 mL) and poured into EtOAc (250 mL). The separated organic layer is washed with water (2×50 mL) followed by brine (50 mL), dried (Na2SO4), and concentrated. The crude product is purified by column chromatography (heptane/EtOAc, 4/1; 2/1, 1/1) to afford 4.79 g of tert-butyl 2-(hydroxy(pyridin-2-yl)methyl)pyrrolidine-1-carboxylate as a mixture of diastereomers. The resulting alcohol is dissolved in dichloromethane (10 mL) and trifluoroacetic acid (80 mL) is added with ice bathe cooling. After 1 h, the reaction mixture is concentrated and added to 1 N sodium hydroxide solution (200 mL). The mixture is extracted with CH2Cl2 (3×100 mL). The combined organic layers are dried (Na2SO4) and concentrated. The resulting oil is distilled in a Kugelrohr apparatus (175-200° C., 0.2 Torr) to afford 2.04 g of the title compound as a mixture of diastereomers. Physical characteristics. 1H NMR (400 MHz, DMSO-d6) δ 8.47, 7.76, 7.46, 7.24, 5.27, 4.50, 4.34, 3.32, 3.22, 2.83, 2.68, 1.62-1.36; MS (ESI+) m/z 179 (M+H)+.

reactant | N-Boc-pyrrolidine | 5.0 g | C(=O)(OC(C)(C)C)N1CCCC1 | C9H17NO2
reactant | sec-butyl lithium | 1.3 M, 27.0 mL | C(C)(CC)[Li]
reactant | 2-pyridine carboxaldehyde | 3.3 mL | N1=C(C=CC=C1)C=O | C6H5NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | tert-butyl 2-(hydroxy(pyridin-2-yl)methyl)pyrrolidine-1-carboxylate | 4.79 g | OC(C1N(CCC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C15H22N2O3
